US07834063B2
4-[(2,2-Dimethylpropyl)(3-{[4-(methyloxy)phenyl]oxy}propyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile and 4-methoxyphenol: MS (ESI) m/z 421 (M+1).

reactant | 4-[(2,2-dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO)(C)C | C16H21F3N2O
reactant | 4-methoxyphenol | COC1=CC=C(C=C1)O | C7H8O2
product | 4-[(2,2-Dimethylpropyl)(3-{[4-(methyloxy)phenyl]oxy}propyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCOC1=CC=C(C=C1)OC)(C)C | C23H27F3N2O2
